US04874775
N-(2,4-difluorophenyl)-N-(pyridin-3-ylmethyl)butanesulfonamide
A 4.4 g. portion of 3-(2,4-difluorophenylaminomethyl)pyridine was dissolved in 15 ml. of dichloromethane, and to it were added 4.1 g. of potassium carbonate and 4.7 g. of butanesulfonyl chloride. The mixture was stirred under gentle reflux for several days, and was then cooled and diluted with 20 ml. of aqueous sodium bicarbonate and 5 ml. of aqueous sodium hydroxide. Some additional dichloromethane was added, and the suspension was shaken and the organic layer separated. It was washed with aqueous sodium bicarbonate and dried over magnesium sulfate, and it was then evaporated to a smaller volume and was chromatographed on a silica gel column, eluting with dichloromethane. The chromatography was repeated twice to obtain 0.38 g. of the desired product.

reactant | 3-(2,4-difluorophenylaminomethyl)pyridine | FC1=C(C=CC(=C1)F)NCC=1C=NC=CC1 | C12H10F2N2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | butanesulfonyl chloride | C(CCC)S(=O)(=O)Cl | C4H9ClO2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(2,4-difluorophenyl)-N-(pyridin-3-ylmethyl)butanesulfonamide | FC1=C(C=CC(=C1)F)N(S(=O)(=O)CCCC)CC=1C=NC=CC1 | C16H18F2N2O2S
